US05981572
A solution of diethyl cyanomethylphosphonate (7.34 g) in dry tetrahydrofuran (20 ml) was added to a suspension of sodium hydride (60% oil dispersion; 1.65 g) in THF (40 ml) over 5 mins with ice cooling. After 15 min, a solution of 7-chloro-benzofuran-4-carbaldehyde in THF (20 ml) was added and after 5 mins the solution was warmed up and stirred at room temperature for 2 h. Brine (40 ml) and ethyl acetate (40 ml) were added, the phases separated and the aqueous extracted with ethyl acetate (2×20 ml). The extracts were dried (MgSO4) and evaporated and the residue crystallised from ethanol to give off-white fluffy needles (2.95 g) of (E)-3-(7-Chloro-benzofuran-4-yl)-acrylonitrile.

reactant | diethyl cyanomethylphosphonate | 7.34 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 1.65 g | [H-].[Na+]
reactant | 7-chloro-benzofuran-4-carbaldehyde | ClC=1C=CC(=C2C=COC21)C=O | C9H5ClO2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Brine | 40 ml | [Cl-].[Na+].O
product | (E)-3-(7-Chloro-benzofuran-4-yl)-acrylonitrile | 2.95 g | ClC1=CC=C(C=2C=COC21)/C=C/C#N | C11H6ClNO
